US06143747
A 100 mL round bottom flask equipped with magnetic stir bar was charged with 1 g aminodiphenylmethane, 2 mL triethylamine in 20 mL CH2Cl2. The reaction was cooled to 0° C. and 1 g of methyl 3-chlorosulfonyl-2(R)-methylpropionate was slowly added. The reaction was stirred 1 hour then concentrated in vacuo. The residue was partioned between ethyl acetate and water. The organic phase was washed with brine, dried, and concentrated in vacuo. Trituration from Et2O/hexanes gave 1.15 g of methyl 3-[N-(diphenylmethyl) aminosulfonyl]-2(R)-methylpropionate as a white solid. HRMS (M+Li): calcd. 354.1351, obs 354.1569.

reactant | aminodiphenylmethane | 1 g | NC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H13N
reactant | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
reactant | methyl 3-chlorosulfonyl-2(R)-methylpropionate | 1 g | ClS(=O)(=O)C[C@@H](C(=O)OC)C | C5H9ClO4S
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | methyl 3-[N-(diphenylmethyl) aminosulfonyl]-2(R)-methylpropionate | 1.15 g | C1(=CC=CC=C1)C(NS(=O)(=O)C[C@@H](C(=O)OC)C)C1=CC=CC=C1 | C18H21NO4S
